US05908858
21(i) N-(4-Fluorobenzylidene)-4-methylthioaniline
Following a procedure similar to that described in Example 1(i), but using 4-fluorobenzaldehyde and 4-methylthioaniline as starting materials, the title compound was obtained as a pale yellow needle-like crystals (yield 87%).

reactant | 4-fluorobenzaldehyde | FC1=CC=C(C=O)C=C1 | C7H5FO
reactant | 4-methylthioaniline | CSC1=CC=C(N)C=C1 | C7H9NS
product | N-(4-Fluorobenzylidene)-4-methylthioaniline | FC1=CC=C(C=NC2=CC=C(C=C2)SC)C=C1 | C14H12FNS
